US07314888B1
In 700 ml of N,N-dimethylformamide are dissolved 70.0 g of salicylaldehyde and 158.5 g of potassium carbonate. After dropwise adding 67.9 ml of 3-chloro-2-methyl-1-propene at 70° C. over a period of 30 minutes, the mixture thus obtained is stirred at 70° C. for 30 minutes. The reaction mixture is added to a mixture of ethyl acetate and water, pH is adjusted to 3.0 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is successively washed with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is dissolved in 350 ml of ethanol, 7.0 g of 5% palladium-carbon is added, and the mixture is stirred at 35° C. for 4 hours in a stream of hydrogen. The reaction mixture is filtered with Celite, the solvent is distilled off from the filtrate under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; n-hexane:toluene=2:1) to obtain 92.4 g of 2-isobutoxybenzaldehyde as a light yellow oily product.

reactant | salicylaldehyde | 70.0 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | potassium carbonate | 158.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-2-methyl-1-propene | 67.9 ml | ClCC(=C)C | C4H7Cl
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | N,N-dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 7.0 g | [C].[Pd]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-isobutoxybenzaldehyde | 92.4 g | C(C(C)C)OC1=C(C=O)C=CC=C1 | C11H14O2
